US08138179B2
e2) 6-Cyano-3,4-dihydronaphthalen-1-yl Trifluoromethanesulphonate
A solution of 107 mmol of 5-oxo-5,6,7,8-tetrahydronaphthalene-2-carbonitrile [90401-84-6] and 150 mmol of 2,6-di-tert-butyl-4-methylpyridine [38222-83-2] in 380 ml of 1,2-dichloroethane is cooled to 0-5° C. in an ice bath. 123 mmol of trifluoromethanesulphonic anhydride are added dropwise at 0-5° C., and the reaction mixture is then stirred at 0-23° C. for 16 hours. 400 ml of heptane are added to the reaction mixture, and the precipitated solid is filtered off through Hyflo. The filter cake is washed with heptane, and the filtrate is evaporated. The title compound is obtained as a beige solid from the residue by flash chromatography (SiO2 60F). Rf=0.24 (dichloromethane-heptane 1:1); Rt=7.89 (gradient II).

reactant | 5-oxo-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | 107 mmol | O=C1C=2C=CC(=CC2CCC1)C#N | C11H9NO
reactant | 2,6-di-tert-butyl-4-methylpyridine | 150 mmol | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | trifluoromethanesulphonic anhydride | 123 mmol | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | heptane | 400 ml | CCCCCCC | C7H16
solvent | 1,2-dichloroethane | 380 ml | ClCCCl | C2H4Cl2
product | 6-Cyano-3,4-dihydronaphthalen-1-yl Trifluoromethanesulphonate | FC(S(=O)(=O)OC1=CCCC2=CC(=CC=C12)C#N)(F)F | C12H8F3NO3S
